US07361763B2
A mixture of 3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenol (14.2 mg, 0.045 mmol), morpholine (5.87 μl, 0.067 mmol) and paraformaldehyde (2.7 mg, 0.09 mmol) in 400 μl of methanol/toluene (3:7) was stirred at 60° C. for 1 hour, then 90° C. for 3 hours. The resulting light brown residue was purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford 5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-morpholin-4-ylmethyl-phenol (11.7 mg, 63% yield) as white solid. 1H NMR (500 MHz, CD3OD) δ 8.44 (d, 1.5 Hz, 1H), 8.22 (d, 1.5 Hz, 1H), 7.65 (s, 1H), 7.56 (dd, 1.5 Hz, 7 Hz, 1H), 7.37 (d, 8 Hz, 1H), 7.32 (dt, 2 Hz, 7.8 Hz, 1H), 7.19 (dd, 2 Hz, 8 Hz, 1H), 7.17 (d, 1.5 Hz, 1H), 7.14 (d, 8 Hz, 1H), 7.06 (dt, 1 Hz, 7 Hz, 1H), 4.18 (s, 2H), 3.87 (s, 3H), 3.85 (br s, 4H), 3.09 (br s, 4H). MS: m/z 416.1 [MH+].

reactant | 3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenol | 0.045 mmol, 14.2 mg | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2C=C(C=CC2)O | C20H16N2O2
reactant | morpholine | 0.067 mmol, 5.87 μl | N1CCOCC1 | C4H9NO
reactant | paraformaldehyde | 0.09 mmol, 2.7 mg | C=O | CH2O
solvent | methanol toluene | 400 μl | CO.C1(=CC=CC=C1)C
product | 5-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-2-morpholin-4-ylmethyl-phenol | 11.7 mg, 63% yield | COC1=C(C=CC=C1)C1=CNC2=NC=C(C=C21)C=2C=CC(=C(C2)O)CN2CCOCC2 | C25H25N3O3
